US04482710
2 g of sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate were dissolved in 20 ml of 35% v/v aqueous methanol, and 16 g of sodium bromide were added to the resulting solution. The mixture was stirred at 70° C. for 2 hours, after which it was diluted with 20 ml of ice-water, neutralised by the addition of a saturated aqueous solution of sodium carbonate and then extracted twice, each time with 50 ml of ethyl acetate. The aqueous phase was acidified by the addition of a saturated aqueous solution of potassium hydrogen sulphate and then again extracted twice, each time with 50 ml of ethyl acetate. All of the ethyl acetate extracts were combined and the combined extracts were washed with an aqueous solution of sodium chloride, dehydrated over anhydrous magnesium sulphate and then concentrated by evaporation under reduced pressure to give 1.4 g of 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid, in the form of a yellow solid.

reactant | sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 2 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O.[Na+]
reactant | sodium bromide | 16 g | [Br-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid | 1.4 g | COCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O | C17H18N2O6S
